US04656308
Preparation of Butyl Acrylamidoglycolate Butyl Ether (BAGBE)
One hundred parts of acrylamidoglycolic acid (AGA); 517 parts butanol, 1 part concentrated sulfuric acid and 0.1 part monomethyl ether of hydroquinone were mixed in a flask equipped with a Dean Stark water trap and a stirrer. The mixture was heated until homogeneous. After 5-10 minutes 100 ml of toluene was added and the mixture was brought to reflux and held 5 hours until the theoretical amount of water was collected by azeotrope.

reactant | acrylamidoglycolic acid | C(C=C)(=O)NC(C(=O)O)O | C5H7NO4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | monomethyl ether | COC | C2H6O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | butanol | C(CCC)O | C4H10O
product | Butyl Acrylamidoglycolate Butyl Ether | C(CCC)OC(C(=O)OCCCC)NC(C=C)=O | C13H23NO4
